US04514416
Synthesis of 4-amidino-2-methoxyphenyl 4-benzyloxycarbonylaminomethylbenzoate
To a solution of 3.7 g of 4-benzyloxycarbonylaminomethylbenzoic acid in 40 ml of dried pyridine, was added 3.1 g of DCC with cooling in ice. The mixture was stirred for 30 minutes. After addition of 3.1 g of 4-amidino-2-methoxyphenol methanesulfonate, the mixture was further stirred overnight at room temperature. The reaction mixture was removed of the insolubles and mixed with ethyl ether to precipitate a colorless solid substance which on recrystallization from a methanolethyl ether mixture gave 3.2 g of colorless crystals of 4-amidino-2-methoxyphenyl 4-benzyloxycarbonylaminomethylbenzoate methanesulfonate.

reactant | 4-benzyloxycarbonylaminomethylbenzoic acid | 3.7 g | C(C1=CC=CC=C1)OC(=O)NCC1=CC=C(C(=O)O)C=C1 | C16H15NO4
reactant | DCC | 3.1 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 4-amidino-2-methoxyphenol methanesulfonate | 3.1 g | CS(=O)(=O)OC1=C(C=C(C=C1)C(N)=N)OC | C9H12N2O4S
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | 4-amidino-2-methoxyphenyl 4-benzyloxycarbonylaminomethylbenzoate | 3.2 g | C(C1=CC=CC=C1)OC(=O)NCC1=CC=C(C(=O)OC2=C(C=C(C=C2)C(N)=N)OC)C=C1 | C24H23N3O5
